US04242121
3-Chloro-6-(3'-chlorophenoxy)benzoic Acid
To a solution of 2,5-dichlorobenzoic acid (5.0 g) and m-chlorophenol (3.35 g) in dry toluene (100 mls) was added sodium hydride (1.25 g) under dry nitrogen. Cuprous bromide (3.0 g) was then added and the mixture stirred under reflux for 3 hrs. The toluene was then removed by distillation under reduced pressure and the residue acidified with dilute hydrochloric acid and extracted with diethyl ether. The ethereal extracts were then washed with water and dried over magnesium sulphate. The ether was then removed under reduced pressure and the residue was crystallised from n-hexane to give the title compound.

reactant | 2,5-dichlorobenzoic acid | 5.0 g | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | m-chlorophenol | 3.35 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium hydride | 1.25 g | [H-].[Na+]
solvent | toluene | 100 mls | C1(=CC=CC=C1)C | C7H8
product | 3-Chloro-6-(3'-chlorophenoxy)benzoic Acid | ClC=1C=C(C(=O)O)C(=CC1)OC1=CC(=CC=C1)Cl | C13H8Cl2O3
